US08614201B2
Intermediate 52: 2-(4-Trifluoromethyl-phenyl)-pyrimidine-4-carboxylic acid
A mixture of 2-chloro-pyrimidine-4-carboxylic acid (2.0 g, 13 mmol), 4-trifluoromethyl phenyl boronic acid (2.4 g, 13 mmol), tetrakis(triphenylphosphine)palladium(0) (0.7 g, 0.6 mmol), potassium phosphate (5.3 g, 25 mmol), 1,2-dimethoxyethane (40 mL) and water (8 mL) was heated to 80° C. under a blanket of nitrogen in a sealed tube. After 5 h, the mixture was partitioned between water (50 mL) and ethyl acetate (50 mL). The aqueous layer was extracted with ethyl acetate (2×50 mL). The combined organic layers were discarded, and the aqueous layer was acidified with concentrated HCl to pH 2. The aqueous layer was extracted with ethyl acetate (2×50 mL). The combined organic layers were dried (MgSO4), filtered, and concentrated. The residue was purified directly by FCC to afford a white solid (1.4 g, 42%). MS (ESI): mass calcd. for C12H7F3N2O2, 268.0 m/z found, 269.0 [M+H]+.

reactant | 2-chloro-pyrimidine-4-carboxylic acid | 13 mmol, 2.0 g | ClC1=NC=CC(=N1)C(=O)O | C5H3ClN2O2
reactant | 4-trifluoromethyl phenyl boronic acid | 13 mmol, 2.4 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | potassium phosphate | 25 mmol, 5.3 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1,2-dimethoxyethane | 40 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.6 mmol, 0.7 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 8 mL | O | H2O
product | 2-(4-Trifluoromethyl-phenyl)-pyrimidine-4-carboxylic acid | 1.4 g, 42% | FC(C1=CC=C(C=C1)C1=NC=CC(=N1)C(=O)O)(F)F | C12H7F3N2O2
